US06998412B2
4-(Fluoromethyl)benzoic acid
To 200 ml of methanol, 8.68 g of methyl 4-(fluoromethyl)benzoate was dissolved, and 77 ml of aqueous solution of 1 N sodium hydroxide was added dropwise with stirring and cooling. The mixture was then stirred for 3.5 hours at room temperature. After the mixture was acidified with 1 N hydrochloric acid, the precipitated crystals were collected by filtration, and the filtrate was concentrated. The precipitated crystals were combined with the residue obtained by concentrating the filtrate, and water was added thereto. The mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to provide 7.47 g of the objective compound as colorless crystals. M.p. 192–194° C.

reactant | methyl 4-(fluoromethyl)benzoate | 8.68 g | FCC1=CC=C(C(=O)OC)C=C1 | C9H9FO2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 4-(Fluoromethyl)benzoic acid | 7.47 g | FCC1=CC=C(C(=O)O)C=C1 | C8H7FO2
